US09145414B2
10% Palladium on carbon (300 mg) was added to a solution of 2-(tert-butyl)-5-nitro-7-(1H-pyrazol-1-yl)-2H-indazole obtained in the above-described Step 2 (255 mg) in ethyl acetate (5 mL), and the reaction solution was stirred under hydrogen atmosphere at room temperature overnight. The insolubles were filtrated, and the solvent was evaporated under vacuum. Thereafter, the resultant residue was purified by column chromatography on basic silica gel (developing solvent:hexane/ethyl acetate) to obtain 2-(tert-butyl)-7-(1H-pyrazol-1-yl)-2H-indazol-5-amine as brown amorphous.

reactant | 2-(tert-butyl)-5-nitro-7-(1H-pyrazol-1-yl)-2H-indazole | C(C)(C)(C)N1N=C2C(=CC(=CC2=C1)[N+](=O)[O-])N1N=CC=C1 | C14H15N5O2
catalyst | Palladium on carbon | 300 mg | [Pd] | Pd
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 2-(tert-butyl)-7-(1H-pyrazol-1-yl)-2H-indazol-5-amine | C(C)(C)(C)N1N=C2C(=CC(=CC2=C1)N)N1N=CC=C1 | C14H17N5
